US08211908B2
To a solution of 0.85 g of tert-butyl (1-(2-(7-bromo-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl)piperidin-4-yl)(2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)carbamate in 5 mL of 1,4-dioxane, 0.20 g of tert-butyl carbamate, 0.69 g of cesium carbonate and 13 mg of tris(benzylideneacetone)dipalladium and 24 mg of 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene were added, and the mixture was stirred at 90° C. for 38 hours under a nitrogen atmosphere. After cooling to room temperature, the insoluble substance was separated by filtration, and the filtrated solution was concentrated under reduced pressure. The residue was purified by silica gel column chromatography using silica gel; Silica Gel 60 made by KANTO CHEMICAL CO., INC., and an eluent of hexane:ethyl acetate=33:67 to 5:95 to obtain 0.68 g of tert-butyl (1-(2-(7-((tert-butoxycarbonyl)amino)-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl)piperidin-4-yl)(2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)carbamate as a white solid.

reactant | tert-butyl (1-(2-(7-bromo-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl)piperidin-4-yl)(2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)carbamate | 0.85 g | BrC1=CN=C2C=CC(N(C2=C1)CCN1CCC(CC1)N(C(OC(C)(C)C)=O)CC1=CC2=C(C=N1)OCCO2)=O | C28H34BrN5O5
reactant | tert-butyl carbamate | 0.20 g | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | cesium carbonate | 0.69 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 24 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | tert-butyl (1-(2-(7-((tert-butoxycarbonyl)amino)-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl)piperidin-4-yl)(2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)carbamate | 0.68 g | C(C)(C)(C)OC(=O)NC1=CN=C2C=CC(N(C2=C1)CCN1CCC(CC1)N(C(OC(C)(C)C)=O)CC1=CC2=C(C=N1)OCCO2)=O | C33H44N6O7
